US06712890B2
To a solution of amino pyridine (50 g, 0.53 mol) in acetone (900 OmL) a solution of 3-chloro perbenzoic acid (112.2 g, 0.65 mol) in acetone (300 mL) was added and the reaction mixture stirred at room temperature for 30 min. Diethyl ether (500 mL) was added and the solution acidified to pH 4 with concentrated HCl. The amino pyridine-N-oxide hydrochloride salt was then isolated by filtration as an off-white powder (62 g, 80%); m/z (ES+) 111; 1H NMR (d6 DMSO) d 8.14 (dd, J=6.9, 1.8 Hz, 1H), 7.66 (s, 2H, NH2), 7.47 (dt, J=7.6, 1.5 Hz, 1H), 6.99 (dd, J=8.1, 1.5 Hz, 1H), 6.72 (dt, J=7.6, 1.8 Hz, 1H).

reactant | amino pyridine | 0.53 mol, 50 g | NC1=NC=CC=C1 | C5H6N2
reactant | 3-chloro perbenzoic acid | 0.65 mol, 112.2 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | Diethyl ether | 500 mL | C(C)OCC | C4H10O
reactant | HCl | Cl | ClH
solvent | acetone | CC(=O)C | C3H6O
solvent | acetone | 300 mL | CC(=O)C | C3H6O
product | amino pyridine-N-oxide hydrochloride salt | Cl.NC1=[N+](C=CC=C1)[O-] | InChI=1S/C5H6N2O.ClH/c6-5-3-1-2-4-7(5)8;/h1-4H,6H2;1H
